US07297698B2
(2R,5S)-4′-(1-Cyanocyclopropyl)-4-(4-cyano-3-fluoro-5-methoxyphenyl)-2,5-dimethylpiperazine-1-carboxanilide
Into 10 ml of pyridine was dissolved 475 mg of 1-(4-aminophenyl)cyclopropanecarbonitrile, and then 493 mg of chloro phenyl carbonate was added thereto under ice-cooling, followed by 24 hours of stirring at room temperature. Then, 5 ml of a pyridine solution of 790 mg of 4-[(2S,5R)-2,5-dimethylpiperazin-1-yl]-2-fluoro-6-methoxybenzonitrile was added dropwise thereto, followed by 1 hour of stirring at 100° C. After the reaction solution was evaporated and the resulting residue was dissolved in ethyl acetate, the solution was washed with a saturated sodium bicarbonate aqueous solution and then water. After the solution was dried over anhydrous sodium sulfate, the solvent was removed by evaporation. The residue was subjected to silica gel column chromatography to obtain 751 mg of the title compound from an eluate using ethyl acetate-hexane (1:1, v/v).

reactant | 1-(4-aminophenyl)cyclopropanecarbonitrile | 475 mg | NC1=CC=C(C=C1)C1(CC1)C#N | C10H10N2
reactant | chloro phenyl carbonate | 493 mg | C(OCl)(OC1=CC=CC=C1)=O | C7H5ClO3
reactant | 4-[(2S,5R)-2,5-dimethylpiperazin-1-yl]-2-fluoro-6-methoxybenzonitrile | 790 mg | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C(=C1)OC)F | C14H18FN3O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (2R,5S)-4′-(1-Cyanocyclopropyl)-4-(4-cyano-3-fluoro-5-methoxyphenyl)-2,5-dimethylpiperazine-1-carboxanilide | 751 mg | C(#N)C1(CC1)C1=CC=C(NC(=O)N2[C@@H](CN([C@H](C2)C)C2=CC(=C(C(=C2)OC)C#N)F)C)C=C1 | C25H26FN5O2
